US04203982
To a solution of diphenylmethyl 7β-(α-p-hydroxyphenyl-α-diphenylmethoxycarbonylacetamido)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate (310 mg) in tetrahydrofuran (15 ml) are added 2 M lithium methoxide in methanol (0.63 ml) and after 1 minute t-butyl hypochlorite (42.6 μl) at -78° C., and the mixture is stirred at -78° C. for 15 minutes. The reaction mixture is mixed with acetic acid (0.3 ml), warmed to room temperature, diluted with ethyl acetate, washed with water, dried over sodium sulfate, and evaporated to dryness under reduced pressure. The residue is chromatographed on silica gel (30 g) containing 10% water and eluted with a mixture of benzene and ethyl acetate (9:1) to give diphenylmethyl 7β-(α-chloro-α-p-hydroxyphenyl-α-diphenylmethoxycarbonylacetamido)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate (206 mg) NMR: δCDCl3 5.74dd(4.5;9 Hz)1H, together with the following 7α-methoxy compound.

reactant | diphenylmethyl 7β-(α-p-hydroxyphenyl-α-diphenylmethoxycarbonylacetamido)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate | 310 mg | OC1=CC=C(C=C1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C45H38N6O7S2
reactant | lithium methoxide | 2 M | C[O-].[Li+]
reactant | t-butyl hypochlorite | 42.6 μl | ClOC(C)(C)C | C4H9ClO
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | methanol | 0.63 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | diphenylmethyl 7β-(α-chloro-α-p-hydroxyphenyl-α-diphenylmethoxycarbonylacetamido)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate | 206 mg | ClC(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)O | C45H37ClN6O7S2
